US07250410B2
7,8-dimethoxy-1-ethyl-3-(2-aminobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIca.
Stir a mixture of 80 mg (0.17 mmol) of 7,8-dimethoxy-1-ethyl-3-(2-nitrobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one IIbh, 10 mg of Pd/C 10% by weight in 15 ml of MeOH under 65 psi of H2 at room temperature for 2 hours. Filter the suspension on celite, rinse three times with 10 ml of MeOH. Evaporate to dryness and purify by silica chromatography (AcOEt 1/hexane 4, 1/2). Recrystallize in EtOH. Yield: 70%. M: degradation at 280° C. 1H-NMR (DMSO, 300 MHz): d 0.86–0.90 (m, 3H, CH3), 3.21–3.31 (m, 2H, CHCH2), 3.59 (s, 3H, OCH3), 3.69–3.76(m, 2H, NCH+CHCH2), 3.88 (s, 3H, OCH3), 4.22–4.30 (m, 1H, NCH), 6.46–6.51 (m, 1H Ar), 6.59–6.61 (m, 2H Ar), 6.85–6.88 (m, 1H Ar), 7.01–7.03 (m, 1H Ar), 7.41–7.53 (m, 5H Ar). Mass: (M+H)+=430.22.

reactant | 7,8-dimethoxy-1-ethyl-3-(2-nitrobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.17 mmol, 80 mg | COC=1C(=CC2=C(C(=NC(C(N2CC)=O)CC2=C(C=CC=C2)[N+](=O)[O-])C2=CC=CC=C2)C1)OC | C26H25N3O5
solvent | MeOH | 15 ml | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 7,8-dimethoxy-1-ethyl-3-(2-aminobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 70% | COC=1C(=CC2=C(C(=NC(C(N2CC)=O)CC2=C(C=CC=C2)N)C2=CC=CC=C2)C1)OC | C26H27N3O3
